US07683160B2
1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(trans-2-hydroxy-cyclopent-1-yloxy)-benzyl]-benzene
A mixture of 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzene (0.50 g), cyclopentene oxide (1.50 g) and potassium carbonate (0.45 g) in ethanol (1.5 mL) is stirred for 75 min at 100° C. in a microwave oven. After cooling to ambient temperature, water is added and the resultant mixture is extracted with ethyl acetate. After drying the combined organic phases over sodium sulfate, the solvent is removed and the residue is purified by chromatography on silica gel (dichloromethane/methanol 9:1→1:1).

reactant | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzene | 0.50 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)O | C19H21ClO7
reactant | cyclopentene oxide | 1.50 g | C12C(CCC1)O2 | C5H8O
reactant | potassium carbonate | 0.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | 1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(trans-2-hydroxy-cyclopent-1-yloxy)-benzyl]-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)O[C@H]1[C@@H](CCC1)O | C24H29ClO8
